US07018988B2
(2S)-2-[(3-hydroxy-1-azetidinyl)carbonyl]-N-(3-methoxyphenyl)-4-oxo-1-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-oxoproline, 1-isocyanato-3-methoxybenzene, and 3-azetidinol the title compound was obtained in 87% purity by LC/MS. MS(ESI+): m/z=334.2.

reactant | 1-(tert-butoxycarbonyl)-4-oxoproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=O | C10H15NO5
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 3-azetidinol | N1CC(C1)O | C3H7NO
product | (2S)-2-[(3-hydroxy-1-azetidinyl)carbonyl]-N-(3-methoxyphenyl)-4-oxo-1-pyrrolidinecarboxamide | OC1CN(C1)C(=O)[C@H]1N(CC(C1)=O)C(=O)NC1=CC(=CC=C1)OC | C16H19N3O5
